US04145538
To a stirred solution of 15 grams of 7-(5-amino-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid in 150 milliliters of 10 percent potassium hydrogen phosphate buffer solution (adjusted to pH 9.1 by addition of 25 percent potassium phosphate solution) was added 9.9 grams of N-carbethoxy phthalimide in 75 milliliters of acetone. The reaction mixture was stirred at room temperature for one hour at pH 9.1, diluted with water to 300 milliliters, and the pH adjusted to 7.0 by addition of phosphoric acid. The acetone was then evaporated and the reaction mixture extracted with ethyl acetate:ethanol (88:12) to remove the phthalimide. The pH of the aqueous layers was adjusted to 2 by addition of phosphoric acid and the mixture extracted with ethyl acetate:ethanol (88:12). The extract was dried with anhydrous magnesium sulfate and filtered, and the filtrate evaporated to dryness, leaving as a residue the desired 7-(5-phthalimido-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid as a foam. It was digested three times with 500-milliliter aliquots of ether. The ether washed product amounted to 17.05 grams.

reactant | 7-(5-amino-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 15 grams | NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C(=O)O | C15H20N4O8S
reactant | N-carbethoxy phthalimide | 9.9 grams | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | potassium hydrogen phosphate | 150 milliliters, pH 9.1 | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | acetone | 75 milliliters | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 7-(5-phthalimido-5-carboxyvaleramido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | C1(C=2C(C(N1C(CCCC(=O)NC1[C@@H]3N(C(=C(CS3)COC(N)=O)C(=O)O)C1=O)C(=O)O)=O)=CC=CC2)=O | C23H22N4O10S
